US08202858B2
1-Isobutyl-piperidine-4-carboxylic acid [4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-amide
A solution of isobutyraldehyde (0.36 mg, 0.005 mmol) in 1,2-dichloroethane (0.05 ml) was added to a solution of piperidine-4-carboxylic acid [4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-amide hydrochloride (Compound number 238) (2.43 mg, 0.005 mmol) in 1,2-dichloroethane (0.05 ml) and DIEA (0.0026 ml). The mixture was stirred at room temperature for 1 h then a solution of sodium triacetoxyborohydride (1.59 mg, 0.0075 mmol) in DMF (0.05 ml) was added. The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=507.4

reactant | isobutyraldehyde | 0.005 mmol, 0.36 mg | C(C(C)C)=O | C4H8O
reactant | piperidine-4-carboxylic acid [4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-amide hydrochloride | 0.005 mmol, 2.43 mg | Cl.CN1N=CC=2CN(C3=C(NC12)C=CC=C3)C(=O)C3CCC(CC3)CNC(=O)C3CCNCC3
reactant | sodium triacetoxyborohydride | 0.0075 mmol, 1.59 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 0.05 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 0.05 ml | ClCCCl | C2H4Cl2
solvent | DIEA | 0.0026 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
product | 1-Isobutyl-piperidine-4-carboxylic acid [4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-amide | CN1N=CC=2CN(C3=C(NC12)C=CC=C3)C(=O)C3CCC(CC3)CNC(=O)C3CCN(CC3)CC(C)C | C29H42N6O2
